US08278318B2
Step 2: N-Ethyl-5-{3-fluoro-4-[(5S)-2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}pyridine-2-carboxamide
This compound was prepared by using procedures that were analogous to those described for the synthesis of Example 1, Step 8 starting from N-ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide and (5S)-7-(4-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-on. LC/MS m/e 495.3 (M+H)+.

reactant | N-ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide | C(C)NC(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
reactant | (5S)-7-(4-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-on | BrC1=CC(=C(C=C1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1)F | C20H26BrFN2O2
product | N-Ethyl-5-{3-fluoro-4-[(5S)-2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}pyridine-2-carboxamide | C(C)NC(=O)C1=NC=C(C=C1)C1=CC(=C(C=C1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1)F | C28H35FN4O3
